US04695649
Propyl p-hydroxybenzoate and phthalic dichloride are allowed to react and treated in a similar procedure to Example 4. The residue obtained is recrystallized from hexane and recrystallized from ethyl acetate-chloroform (1:1) to yield di(p-propoxycarbonylphenyl)phthalate, m.p. 87°-89° C., as white crystals.

reactant | Propyl p-hydroxybenzoate | OC1=CC=C(C(=O)OCCC)C=C1 | C10H12O3
reactant | phthalic dichloride | C(C=1C(C(=O)Cl)=CC=CC1)(=O)Cl | C8H4Cl2O2
product | di(p-propoxycarbonylphenyl)phthalate | C(CC)OC(=O)C1=CC=C(C=C1)OC(C=1C(C(=O)OC2=CC=C(C=C2)C(=O)OCCC)=CC=CC1)=O | C28H26O8
